US04133916
A butylthioethylacrylate copolymer was synthesized by the solution polymerization of one mole of butyl acrylate, one mole of methylmethacrylate and one-half mole of the reaction products of butylthioethanol esterified with ethylacrylate, under standard solution polymerization conditions in 2-butoxy-ethanol-1 solvent and using one mole of thiolacetic acid as a chain transfer agent. The copolymer was hydrolyzed with acetic acid to convert the thiolacetic ester linkages into mercaptan groups. The curing agent of the previous Example then was reacted onto the copolymer.

reactant | butyl acrylate | one mole | C(C=C)(=O)OCCCC | C7H12O2
reactant | methylmethacrylate | one mole | COC(C(=C)C)=O | C5H8O2
reactant | butylthioethanol | C(CCC)SC(C)O | C6H14OS
reactant | ethylacrylate | C(C)OC(C=C)=O | C5H8O2
reactant | thiolacetic acid | one mole | S1C(=CC=C1)CC(=O)O | C6H6O2S
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | butylthioethylacrylate | C(CCC)SCCOC(C=C)=O | C9H16O2S
